US05834506
6-Cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one
Crude 5-cyclohexyl-5-hydroxy-7-(4-hydroxy-phenyl)-3-oxo-heptanoic acid methyl ester (prepared in the previous paragraph) was dissolved in tetrahydrofuran (100 mL) and treated with 0.2N NaOH (900 mL) as described in General Method 7. The reaction was stirred for 3 hours at room temperature and then worked up as usual. The organic extracts obtained were combined, dried (MgSO4) and concentrated. Purification was accomplished by flash chromatography using CH2Cl2 :MeOH (99:1 to 98:2) to give the desired product as a solid, m.p. 52°-58° C. 1H NMR (CDCl3) δ 1.0-1.9 (m, 12 H), 1.9-2.1 (m, 1 H), 2.5-2.7 (m, 3 H), 2.8 (d, 1 H), 3.4 (s, 2 H), 6.75 (d, 2 H), 7.05 (d, 2 H).

reactant | 5-cyclohexyl-5-hydroxy-7-(4-hydroxy-phenyl)-3-oxo-heptanoic acid methyl ester | COC(CC(CC(CCC1=CC=C(C=C1)O)(O)C1CCCCC1)=O)=O | C20H28O5
reactant | NaOH | 0.2N, 900 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 6-Cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | C1(CCCCC1)C1(CC(=CC(O1)=O)O)CCC1=CC=C(C=C1)O | C19H24O4
